*******************************************************************************
*****************************************************************
* NXP PSMN2R5-30YL 
*
* Polarity N-Channel
* Ratings 30V/2.40E-03OHMS/15A
*
* Date Created Mon Aug 18 23:32:22 2008
* Modified by P Ellis / M Agius Wed 27th Aug 2008
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R5-30YL DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 600000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000981132531229448 TC=0.00636234557589147,5.97871674381723e-06
RBD 9 4 0.00084477283228429 TC=0.00636234557589147,5.97871674381723e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 1000000000000
CGS 2 6 3.0e-09
RG 1 2 0.646633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	3120
+ -5	3098
+ -2	2610
+ -1	1772
+ -0.5	1329
+ -0.2	1081
+ -0.1	1006
+ 0	939
+ 0.1	1009
+ 0.2	915
+ 0.5	743
+ 1	615
+ 2	514
+ 5	408
+ 10	341
+ 12	308
+ 20	288
+ 25	274
+ 30	263


.MODEL MINT NMOS(Vto=2.2 Kp=3.50e+02 Nfs=63e+10 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0 
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33.60 Ibv=2.50E-04 Rs=1E-6 Is=18.0e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=2.43936e-09 Tt=2.44e-08)



.ENDS











*******************************************************************************
