*****************************************************************
* NXP PSMN3R3_40YS
*
* Polarity N-Channel
* Ratings 40V/3.30E-03OHMS/25A
*
* Date Created Sun Oct 17 00:18:35 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
* 
*****************************************************************

.SUBCKT PSMN3R3_40YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 4.30084418749933e-10
RLG GATE 1 1.08091912728048
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 40000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00182142269617719 TC=0.00544527363383647,8.1331312058907e-06
RBD 9 4 0.000427081060835689 TC=0.00544527363383647,8.1331312058907e-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000
CGS 2 6 2.82043362831858e-09
RG 1 2 0.669302875042655

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2500
+ -8	2492
+ -6	2471
+ -4	2106
+ -2	1695
+ 0	866
+ 0.1	737
+ 0.2	735
+ 0.5	731
+ 1	675
+ 2	540
+ 5	421
+ 10	355
+ 12	341
+ 20	307
+ 30	280



.MODEL MINT NMOS(Vto=4.04484539235439 Kp=1.6072e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=500)

.MODEL DBD D(Bv=40.00 Ibv=2.50E-04 Rs=1E-6 Is=1.47116797029006e-12
+ N=1 M=0.47 VJ=0.99 Fc=0.5 Cjo=1.585e-09 Tt=4.398e-08)

.ENDS
