*****************************************************************
* NXP PSMN5R5-60YS
*
* Polarity N-Channel
* Ratings 60V/5.200000E-003OHMS/100A
*
* Date Created Sun Nov 06 23:57:45 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN5R5-60YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 1200000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00240405292385328 TC=0.0053903371914769,1.85917496475991E-05
RBD 9 4 0.000403422428171259 TC=0.0053903371914769,1.85917496475991E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 3.261e-09
RG 1 2 0.676633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
*+ -20	3054
*+ -10	3041
*+ -5	3011
+ -2	1740
+ -1	1603
+ -0.5	1223
+ -0.2	1000
+ -0.1	947
+ 0	920.5
+ 0.1	834
+ 0.2	780
+ 0.5	681
+ 1	578
+ 2	445
+ 5	336
+ 10	299
+ 20	263
+ 25	251
+ 30	237
+ 40	211.333333333333
+ 50	185.333333333333
+ 60	159.333333333333


.MODEL MINT NMOS(Vto=3.67 Kp=1.9e+002 Nfs=710000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=2.57136614000887e-12
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=2.389e-09 Tt=4.3e-08)

.ENDS

