*****************************************************************
* NXP PSMN8R5-60YS
*
* Polarity N-Channel
* Ratings 60V/8.000000E-003OHMS/76A
*
* Date Created Mon Nov 07 04:04:25 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN8R5-60YS DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00315779883005348 TC=0.00537361764456243,1.9513209805593E-05
RBD 9 4 0.000643798786573951 TC=0.00537361764456243,1.9513209805593E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 2.198e-09
RG 1 2 0.586633761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	1490
+ -1	1129
+ -0.5	869.1
+ -0.2	716.4
+ -0.1	675.4
+ 0	642.9
+ 0.1	584.1
+ 0.2	541.2
+ 0.5	465.8
+ 1	395.5
+ 2	309.7
+ 5	239.6
+ 10	215.3
+ 12	209.5
+ 20	191.2
+ 30	175.6
+ 40	160
+ 50	144.4
+ 60	128.8



.MODEL MINT NMOS(Vto=3.539 Kp=8.0e+001 Nfs=630000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.0e-12
+ N=1 M=0.62 VJ=0.55 Fc=0.5 Cjo=1.4263e-09 Tt=4.33e-08)

.ENDS

