*****************************************************************
* NXP PSMN1R5_40ES
*
* Polarity N-Channel
* Ratings 40V/1.60E-03OHMS/25A
*
* Date Created Sun May 15 03:35:22 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R5_40ES DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961057116334
RLS1 8 7 0.000694987797247309

RDS 7 4 4000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000245830438055873 TC=0.0172682952538425,0.00013616210635728
RBD 9 4 0.000304671878423935 TC=0.0172682952538425,0.00013616210635728
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 7.5728962353143e-09
RG 1 2 1.09784058573213

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	8670
+ -10	8668
+ -5	8601
+ -4	8510
+ -3	7725
+ -2	6690
+ -1	5554
+ -0.5	4916
+ -0.2	4485
+ -0.1	4369
+ 0	4202.5
+ 0.1	3875
+ 0.2	3513
+ 0.5	2751
+ 1	2221
+ 2	1805
+ 5	1414
+ 10	1195
+ 12	1152
+ 20	1037


.MODEL MINT NMOS(Vto=3.94552488694755 Kp=5.5555e+02 Nfs=700000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=45.40 Ibv=2.50E-04 Rs=1E-6 Is=6.82174811422347e-12
+ N=1 M=0.62 VJ=0.5 Fc=0.5 Cjo=9.061e-09 Tt=6.42e-08)

.ENDS
