*****************************************************************
* NXP PSMN4R3_80ES
*
* Polarity N-Channel
* Ratings 80V/4.30E-03OHMS/25A
*
* Date Created Sun May 15 03:45:46 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R3_80ES DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.04498779724731e-09
RLS2 SOURCE 8 5.13961057116334
RLS1 8 7 0.000694987797247309

RDS 7 4 8000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00299409921162732 TC=0.0127463722512187,-1.74890931069206e-05
RBD 9 4 0.000441611858434888 TC=0.0127463722512187,-1.74890931069206e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 5.87494284303425e-09
RG 1 2 0.897840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	6875
+ -10	6960
+ -5	6843
+ -4	6502
+ -3	5855
+ -2	4730
+ -1	3339
+ -0.5	2270
+ -0.2	1769
+ -0.1	1672
+ 0	1605
+ 0.1	1472
+ 0.2	1359
+ 0.5	1138
+ 1	847
+ 2	532
+ 5	474
+ 10	440
+ 12	429
+ 20	398
+ 25	382
+ 30	369
+ 40	350



.MODEL MINT NMOS(Vto=3.79062935487445 Kp=6.5364e+02 Nfs=600000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=800)

.MODEL DBD D(Bv=88.40 Ibv=2.50E-04 Rs=1E-6 Is=7.08481823608768e-12
+ N=1 M=0.690000000000001 VJ=0.66 Fc=0.5 Cjo=5.208e-09 Tt=5.9e-08)

.ENDS
